US06608078B2
A mixture of 1-benzyl-3-ethyl-4-hydroxypiperidine (5.0 g, 22.0 mmole) and palladium hydroxide (1.5 g) in methanol (100 ml) was stirred at 5.0 g, 22.0 mmole) and palladium hydroxide (1.5 g) in methanol (100 ml) was stirred at 50-55° C. in hydrogen atmosphere (1 atm.) for 20 hr. The catalyst was filtered off, washed with methanol, and filtrate was concentrated to dryness to give 3-ethyl-4-hydroxypiperidine as oil. Yield 2.9 g (94%), C7H15NO, m/z 130 (M+1).

reactant | 1-benzyl-3-ethyl-4-hydroxypiperidine | 22.0 mmole, 5.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)O)CC | C14H21NO
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 1.5 g | [OH-].[Pd+2].[OH-]
catalyst | palladium hydroxide | 1.5 g | [OH-].[Pd+2].[OH-]
product | 3-ethyl-4-hydroxypiperidine | C(C)C1CNCCC1O | C7H15NO
